.include TSMC_180nm.txt
.global vdd gnd
.option scale=90n
Vdd vdd 0 1.8
Vclk clk 0 pulse(0 1.8 0 100p 100p 10n 20n)
Vdata D 0 pwl(0 0 12n 0 12.1n 1.8 32n 1.8 32.1n 0 60n 0)
M1000 l1 D vdd vdd CMOSP w=20 l=2
+  ad=60p pd=26u as=100p ps=50u
M1001 Q_bar clk l3 Gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=30p ps=16u
M1002 l2 X Y Gnd CMOSN w=10 l=2
+  ad=30p pd=16u as=50p ps=30u
M1003 X clk l1 vdd CMOSP w=20 l=2
+  ad=100p pd=50u as=60p ps=26u
M1004 Q Q_bar vdd vdd CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1005 l3 Y gnd Gnd CMOSN w=10 l=2
+  ad=30p pd=16u as=50p ps=30u
M1006 X D gnd Gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1007 Y clk vdd vdd CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1008 Q Q_bar gnd Gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1009 Q_bar Y vdd vdd CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1010 gnd clk l2 Gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=30p ps=16u
C0 clk Y 0.03159f
C1 l2 Y 0
C2 vdd X 0.01725f
C3 clk Q_bar 0
C4 D clk 0.11678f
C5 vdd Y 0.0286f
C6 vdd Q_bar 0.03386f
C7 vdd D 0.08759f
C8 vdd l1 0
C9 vdd clk 0.33388f
C10 Q gnd 0
C11 X gnd 0
C12 Y gnd 0.00175f
C13 Q_bar Q 0.05983f
C14 l3 gnd 0
C15 Y X 0.22972f
C16 Q_bar gnd 0.00164f
C17 D gnd 0.00153f
C18 D X 0.00351f
C19 l1 X 0
C20 clk gnd 0.40146f
C21 Y Q_bar 0.00206f
C22 l2 gnd 0
C23 clk X 0.06868f
C24 vdd Q 0.00806f
C25 gnd 0 0.32996f  
C26 Q 0 0.10349f  
C27 X 0 0.17941f  
C28 Q_bar 0 0.28741f  
C29 Y 0 0.28701f  
C30 clk 0 0.59967f  
C31 D 0 0.20166f  
C32 vdd 0 3.10879f  


.tran 0.01n 60n
.measure tran tcpq
+ TRIG v(clk) VAL=0.9 RISE=2
+ TARG v(Q) VAL=0.9 RISE=1

.measure tran tsetup
+ TRIG v(D) VAL=0.9 RISE=1
+ TARG v(X) VAL=0.9 FALL=1

.measure tran thold
+ TRIG v(Y) VAL=0.9 FALL=1
+ TARG v(X) VAL=0.9 RISE=1

.control
run
plot clk D+2 Q+4
.endc

.end